US08304419B2
4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.132 g, 0.230 mmol) was dissolved in DCM (3 mL) and treated with TFA (3 mL) at 25° C. for 3 days. The reaction mixture was concentrated to dryness and partitioned between DCM and saturated aqueous NaHCO3. The organic phase was isolated, dried over MgSO4, filtered and concentrated to dryness. The residue was purified on 40 g silica gel eluted with 0 to 10% CH3OH/DCM to give 4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (0.0705 g, 0.158 mmol, 68.8% yield) as a white foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.19 (br. s., 1H), 8.26 (br. s., 1H), 7.78 (s, 1H), 7.31-7.55 (m, 2H), 7.27 (br. s., 1H), 7.09 (s, 2H), 4.53 (d, J=1.39 Hz, 2H), 1.91-2.07 (m, 1H), 0.99 (m, 2H), 0.77 (m, 2H). LC-MS (ES−) m/z 443.18, 445.11 [M−1]. LC-MS (ES+) m/z 445.07, 447.08 [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.230 mmol, 0.132 g | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)C#N)F)COCC[Si](C)(C)C | C27H29Cl2FN4O3Si
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.158 mmol, 0.0705 g, 68.8% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)C#N)F | C21H15Cl2FN4O2
